US04082751
2-(5-Amino-2-n-propoxyphenyl)-5-(5-1H-tetrazolyl)pyrimidin-4(3H)-one
A mixture of 2-(5-nitro-2-n-propoxyphenyl)-5-(5-1H-tetrazolyl)pyrimidine-4(3H)-one (5.0 g.) and 10% paladium-on-carbon (4.0 g.) in 2-methoxyethanol (900 ml.) was shaken in an atmosphere of hydrogen at an initial pressure of 3.5 kg./cm2 for 19 hours. The mixture was filtered and the filtrate evaporated to dryness to give the title compound (3.6 g., 79%), m.p. 250°-253° (decomp). Recrystallization from 2-methoxyethanol gave analytical material, m.p. 261°-262°.

reactant | 2-(5-nitro-2-n-propoxyphenyl)-5-(5-1H-tetrazolyl)pyrimidine-4(3H)-one | 5.0 g | [N+](=O)([O-])C=1C=CC(=C(C1)C1=NC=C(C(N1)=O)C1=NN=NN1)OCCC | C14H13N7O4
reactant | hydrogen | [H][H] | H2
solvent | 2-methoxyethanol | 900 ml | COCCO | C3H8O2
product | 2-(5-Amino-2-n-propoxyphenyl)-5-(5-1H-tetrazolyl)pyrimidin-4(3H)-one | 3.6 g, 79% | NC=1C=CC(=C(C1)C1=NC=C(C(N1)=O)C1=NN=NN1)OCCC | C14H15N7O2
